US05123951
A mixture of 20.0 grams (0.13 mole) of dimethyl diazomalonate and 164.35 grams (1.95 moles) of 2,3-dimethyl-2-butene was photolyzed at room temperature for a period of approximately 47 hours in the presence of a 100-watt Hanovia mercury lamp. Most of the unreacted 2,3-dimethyl-2-butene was removed by distillation, at atmospheric pressure, to a head temperature of 73° C. and the still residue was subjected to flash chromatography on a silica gel column to give 9.00 grams (0.04 mole) of dimethyl 2,2,3,3-tetramethylcyclopropanedicarboxylate. NMR analysis of the product indicated the following:

reactant | dimethyl diazomalonate | 0.13 mole, 20.0 grams | [N+](=[N-])=C(C(=O)OC)C(=O)OC | C5H6N2O4
reactant | 2,3-dimethyl-2-butene | 1.95 moles, 164.35 grams | CC(C)=C(C)C | C6H12
catalyst | mercury | [Hg] | Hg
product | dimethyl 2,2,3,3-tetramethylcyclopropanedicarboxylate | 0.04 mole, 9.00 grams | CC1(C(C1(C)C)(C(=O)OC)C(=O)OC)C | C11H18O4
